US07087599B2
A solution of 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (230 mg, 0.73 mmol) in anhydrous THF (3.8 mL) was cooled in an ice bath, stirred under a nitrogen atmosphere, and treated with freshly prepared 0.4M LDA in THF (2.2 mL, 0.88 mmol). The resulting solution was stirred at 0° C. for 30 minutes, then cooled to −78° C. (dry ice-acetone bath) and treated with allyl bromide (0.316 mL, 3.65 mmol). The reaction mixture was allowed to gradually warm to room temperature then stirred at room temperature overnight. The mixture was diluted with EtOAc (60 mL) and shaken with 1N HCl (35 mL). The aqueous phase was extracted with EtOAc (20 mL) and the combined organics were washed with 5% NaHCO3 and brine, dried over MgSO4, filtered, and concentrated under vacuum to a yellow oil. The crude product was purified by preparative layer chromatography on three 0.1×20×20 silica gel GF plates using 4:1 hexanes-EtOAc as developing solvent. The UV visible band at Rf 0.44-0.56 was eluted with EtOAc and the eluant evaporated under vacuum to afford (2SR,9aSR)-2-allyl-9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (193 mg) as an oil.

reactant | 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.73 mmol, 230 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OCOC | C20H26O3
reactant | LDA | 0.4M | [Li+].CC(C)[N-]C(C)C
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | allyl bromide | 3.65 mmol, 0.316 mL | C(C=C)Br | C3H5Br
reactant | HCl | 1N, 35 mL | Cl | ClH
solvent | THF | 3.8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | THF | 0.88 mmol, 2.2 mL | C1CCOC1 | C4H8O
product | (2SR,9aSR)-2-allyl-9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 193 mg | C(C=C)C1CC2(CC3=CC(=CC=C3C2=C(C1=O)C)OCOC)CCCC | C23H30O3
